US05455258
N-[4-methoxybenzenesulfonyl]-(D)-asparagine (10.1 g, 33.3 mmol) is dissolved in dimethylformamide (167.0 mL). Cesium carbonate (5.43 g, 16.66 mmol) is added, followed by the addition of methyl iodide (2.22 mL, 33.3 mmol), and the reaction is stirred overnight. The reaction is then diluted with saturated ammonium chloride (366.0 mL), and extracted well with ethyl acetate. The combined organic extracts are washed with brine, dried (Na2SO4), and the solvent is evaporated. The crude product is recrystallized from toluene to provide N-[4-methoxybenzenesulfonyl]-(D)-asparagine methyl ester.

reactant | N-[4-methoxybenzenesulfonyl]-(D)-asparagine | 33.3 mmol, 10.1 g | COC1=CC=C(C=C1)S(=O)(=O)N[C@H](CC(N)=O)C(=O)O | C11H14N2O6S
reactant | Cesium carbonate | 16.66 mmol, 5.43 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 33.3 mmol, 2.22 mL | CI | CH3I
solvent | dimethylformamide | 167.0 mL | CN(C=O)C | C3H7NO
solvent | ammonium chloride | 366.0 mL | [Cl-].[NH4+]
product | N-[4-methoxybenzenesulfonyl]-(D)-asparagine methyl ester | COC([C@H](NS(=O)(=O)C1=CC=C(C=C1)OC)CC(N)=O)=O | C12H16N2O6S
